US08217177B2
4-((8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinolin-7-ol (0.110 g, 0.28 mmol), PPh3 (polymer supported: 2.3 mmol/g) (1.2 g, 2.8 mmol) and 2-methoxyethanol (0.11 ml, 1.3 mmol) were combined in DCM (11 ml, 0.28 mmol). The mixture was cooled to 0° C., and DEAD (0.089 ml, 0.56 mmol) was added dropwise. The reaction was removed from the ice bath, and stirred at RT for 1 h. The material was diluted with DCM, and the PS-PPh3 was filtered off and washed thoroughly with DCM. The filtrate was concentrated in vacuo. The crude material was dissolved in minimal DCM and purified via MPLC (eluting with 0-100% 90:10:1 DCM:MeOH:NH4OH in DCM) to yield 4-((8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-(2-methoxyethoxy)quinoline (0.070 g, 55% yield) as a white solid. MS (ESI pos. ion) m/z: 450.0 (M+H). Calc'd Exact Mass for C23H20FN5O4: 449.44

reactant | 4-((8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinolin-7-ol | 0.28 mmol, 0.110 g | FC=1C=2N(C=C(C1)C1=CC(=NO1)C)C(=NN2)COC2=CC=NC1=CC(=CC=C21)O | C20H14FN5O3
reactant | PPh3 | 2.8 mmol, 1.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-methoxyethanol | 1.3 mmol, 0.11 ml | COCCO | C3H8O2
reactant | DCM | 0.28 mmol, 11 ml | C(Cl)Cl | CH2Cl2
reactant | DEAD | 0.56 mmol, 0.089 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 4-((8-fluoro-6-(3-methylisoxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-(2-methoxyethoxy)quinoline | 0.070 g, 55% yield | FC=1C=2N(C=C(C1)C1=CC(=NO1)C)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OCCOC | C23H20FN5O4
